US06531502B1
4-Methoxy-3-phenylbenzaldehyde was condensed with 2-oxindole to give 0.3 g of 3-(6-methoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 4-Methoxy-3-phenylbenzaldehyde | COC1=C(C=C(C=O)C=C1)C1=CC=CC=C1 | C14H12O2
reactant | 2-oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
product | 3-(6-methoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one | 0.3 g | COC1=CC=C(C=C1C1=CC=CC=C1)C=C1C(NC2=CC=CC=C12)=O | C22H17NO2
